US06780996B2
Following the procedure used to prepare Reference Example 14, reaction of 4-chloro-7-fluoro-6-hydroxy-3-quinolinecarbonitrile with triphenyl phosphine, diethyl azodicarboxylate and 4-(2-hydroxyethyl)morpholine provides 4-chloro-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile in 57% yield. An analytical sample is obtained by preparative thin layer chromatography eluting with 1% methanol in ethyl acetate, mp 163-164° C.

reactant | 4-chloro-7-fluoro-6-hydroxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)O)F)C#N | C10H4ClFN2O
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(2-hydroxyethyl)morpholine | OCCN1CCOCC1 | C6H13NO2
product | 4-chloro-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile | 57% yield | ClC1=C(C=NC2=CC(=C(C=C12)OCCN1CCOCC1)F)C#N | C16H15ClFN3O2
